** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/runs/RUN_2026-05-12_11-42-45/parameters/op_sweep_code/run_0413/tb_BiasBranchnMasterx1_op.sch
**.subckt tb_BiasBranchnMasterx1_op
Vgnd gnd GND! 0
.save i(vgnd)
Vvdd vdd GND! 'xvdd'
.save i(vvdd)
VpowerDown PowerDown gnd 'xpowerdown*xvdd'
.save i(vpowerdown)
XMnMeasOut drain_nMeasOut vout gnd gnd sky130_fd_pr__nfet_01v8 L=6 W=6 nf=1 ad=1.74 as=1.74 pd=12.58 ps=12.58
+ nrd=0.0483333333333333 nrs=0.0483333333333333 sa=0 sb=0 sd=0 mult=1
Vmeas_Iout_nmos vdd drain_nMeasOut 0
.save i(vmeas_iout_nmos)
XMpMeasOut drain_pMeasOut vout vdd vdd sky130_fd_pr__pfet_01v8 L=3 W=6 nf=1 ad=1.74 as=1.74 pd=12.58 ps=12.58
+ nrd=0.0483333333333333 nrs=0.0483333333333333 sa=0 sb=0 sd=0 mult=2 m=2
Vmeas_Iout_pmos drain_pMeasOut gnd 0
.save i(vmeas_iout_pmos)
VbiasEnabled BiasEnable gnd 'xBiasEnabled*xvdd'
VNBiasEn NBiasEn gnd 'xNBias*xvdd'
xBias vdd gnd PowerDown BiasCB[7] BiasCB[6] BiasCB[5] BiasCB[4] BiasCB[3] BiasCB[2] BiasCB[1] BiasCB[0] BufferN BufferP
+ VMasterBiasN VMasterBiasP vout IR Coarse7 Coarse6 Coarse5 Coarse4 Coarse3 Coarse2 Coarse1 Coarse0 LowBiasInterfaceEn nLowBiasInterfaceEn
+ FineBit7 FineBit6 FineBit5 FineBit4 FineBit3 FineBit2 FineBit1 FineBit0 nFineBit7 nFineBit6 nFineBit5 nFineBit4 nFineBit3 nFineBit2
+ nFineBit1 nFineBit0 CoarseOneHotLowBiasEn LowBiasBufEn nLowBiasBufEn NBiasEn PBiasEn BiasEnable BiasDisable BCoarse7 BCoarse6 BCoarse5
+ BCoarse4 BCoarse3 BCoarse2 BCoarse1 BCoarse0 LowBiasInterfaceEnBuffer nLowBiasInterfaceEnBuffer BFineBit7 BFineBit6 BFineBit5 BFineBit4
+ BFineBit3 BFineBit2 BFineBit1 BFineBit0 nBFineBit7 nBFineBit6 nBFineBit5 nBFineBit4 nBFineBit3 nBFineBit2 nBFineBit1 nBFineBit0
+ CoarseOneHotLowBiasEnBuffer gnd BiasBranchnMasterx1
* noconn BiasCB[7:0]
* noconn BufferN
* noconn BufferP
* noconn VMasterBiasN
* noconn VMasterBiasP
R1 IR gnd 'xIR'
VBFineBit0 BFineBit0 gnd 'xFineBitBuffer0*xvdd'
.save i(vbfinebit0)
VBFineBit1 BFineBit1 gnd 'xFineBitBuffer1*xvdd'
.save i(vbfinebit1)
VBFineBit2 BFineBit2 gnd 'xFineBitBuffer2*xvdd'
.save i(vbfinebit2)
VBFineBit3 BFineBit3 gnd 'xFineBitBuffer3*xvdd'
.save i(vbfinebit3)
VBFineBit4 BFineBit4 gnd 'xFineBitBuffer4*xvdd'
.save i(vbfinebit4)
VBFineBit5 BFineBit5 gnd 'xFineBitBuffer5*xvdd'
.save i(vbfinebit5)
VBFineBit6 BFineBit6 gnd 'xFineBitBuffer6*xvdd'
.save i(vbfinebit6)
VBFineBit7 BFineBit7 gnd 'xFineBitBuffer7*xvdd'
.save i(vbfinebit7)
E1 nBFineBit7 vdd BFineBit7 gnd -1
E2 nBFineBit6 vdd BFineBit6 gnd -1
E3 nBFineBit5 vdd BFineBit5 gnd -1
E4 nBFineBit4 vdd BFineBit4 gnd -1
E5 nBFineBit3 vdd BFineBit3 gnd -1
E6 nBFineBit2 vdd BFineBit2 gnd -1
E7 nBFineBit1 vdd BFineBit1 gnd -1
E8 nBFineBit0 vdd BFineBit0 gnd -1
VFineBit8 FineBit0 gnd 'xFineBit0*xvdd'
.save i(vfinebit8)
VFineBit9 FineBit1 gnd 'xFineBit1*xvdd'
.save i(vfinebit9)
VFineBit10 FineBit2 gnd 'xFineBit2*xvdd'
.save i(vfinebit10)
VFineBit11 FineBit3 gnd 'xFineBit3*xvdd'
.save i(vfinebit11)
VFineBit12 FineBit4 gnd 'xFineBit4*xvdd'
.save i(vfinebit12)
VFineBit13 FineBit5 gnd 'xFineBit5*xvdd'
.save i(vfinebit13)
VFineBit14 FineBit6 gnd 'xFineBit6*xvdd'
.save i(vfinebit14)
VFineBit15 FineBit7 gnd 'xFineBit7*xvdd'
.save i(vfinebit15)
E9 nFineBit7 vdd FineBit7 gnd -1
E10 nFineBit6 vdd FineBit6 gnd -1
E11 nFineBit5 vdd FineBit5 gnd -1
E12 nFineBit4 vdd FineBit4 gnd -1
E13 nFineBit3 vdd FineBit3 gnd -1
E14 nFineBit2 vdd FineBit2 gnd -1
E15 nFineBit1 vdd FineBit1 gnd -1
E16 nFineBit0 vdd FineBit0 gnd -1
VCoarse7 Coarse7 gnd '(xCoarseCode==7)*xvdd'
.save i(vcoarse7)
VCoarse6 Coarse6 gnd '(xCoarseCode==6)*xvdd'
.save i(vcoarse6)
VCoarse5 Coarse5 gnd '(xCoarseCode==5)*xvdd'
.save i(vcoarse5)
VCoarse4 Coarse4 gnd '(xCoarseCode==4)*xvdd'
.save i(vcoarse4)
VCoarse3 Coarse3 gnd '(xCoarseCode==3)*xvdd'
.save i(vcoarse3)
VCoarse2 Coarse2 gnd '(xCoarseCode==2)*xvdd'
.save i(vcoarse2)
VCoarse1 Coarse1 gnd '(xCoarseCode==1)*xvdd'
.save i(vcoarse1)
VCoarse0 Coarse0 gnd '(xCoarseCode==0)*xvdd'
.save i(vcoarse0)
VBCoarse7 BCoarse7 gnd '(xCoarseCodeBuffer==7)*xvdd'
.save i(vbcoarse7)
VBCoarse6 BCoarse6 gnd '(xCoarseCodeBuffer==6)*xvdd'
.save i(vbcoarse6)
VBCoarse5 BCoarse5 gnd '(xCoarseCodeBuffer==5)*xvdd'
.save i(vbcoarse5)
VBCoarse4 BCoarse4 gnd '(xCoarseCodeBuffer==4)*xvdd'
.save i(vbcoarse4)
VBCoarse3 BCoarse3 gnd '(xCoarseCodeBuffer==3)*xvdd'
.save i(vbcoarse3)
VBCoarse2 BCoarse2 gnd '(xCoarseCodeBuffer==2)*xvdd'
.save i(vbcoarse2)
VBCoarse1 BCoarse1 gnd '(xCoarseCodeBuffer==1)*xvdd'
.save i(vbcoarse1)
VBCoarse0 BCoarse0 gnd '(xCoarseCodeBuffer==0)*xvdd'
.save i(vbcoarse0)
VLowBiasBufEn LowBiasBufEn gnd '(xCoarseCode>0)*xvdd'
E17 nLowBiasBufEn vdd LowBiasBufEn gnd -1
E19 BiasDisable vdd BiasEnable gnd -1
E20 PBiasEn vdd NBiasEn gnd -1
VLowBiasInterfaceEn LowBiasInterfaceEn gnd '(xCoarseCode>1)*xvdd'
E21 nLowBiasInterfaceEn vdd LowBiasInterfaceEn gnd -1
VLowBiasInterfaceEnBuffer LowBiasInterfaceEnBuffer gnd '(xCoarseCodeBuffer>1)*xvdd'
E22 nLowBiasInterfaceEnBuffer vdd LowBiasInterfaceEnBuffer gnd -1
VLowBiasBufEn2 CoarseOneHotLowBiasEn gnd '(xCoarseCode>3)*xvdd'
VLowBiasBufEn3 CoarseOneHotLowBiasEnBuffer gnd '(xCoarseCode>3)*xvdd'
**** begin user architecture code

** opencircuitdesign pdks install
.lib /home/alienfalcon/.ciel/sky130B/libs.tech/combined/sky130.lib.spice tt



.include /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/netlist/schematic/BiasBranchnMasterx1.spice

.temp 27

.option SEED=12345

* Flag unsafe operating conditions (exceeds models' specified limits)
.option warn=1

.param xvdd = 1.8
.param xCoarseCode = 5.0
.param xFineCode = 51.0
.param xNBias = 0


* Flag unsafe operating conditions (exceeds models' specified limits)
.option warn=1


.param xpowerdown = 0
.param xIR = 100k

.param xCoarseCodeBuffer = 1
.param xFineCodeBuffer = 110

.param xBiasEnabled = 1

.param xCoarseBit0 = (xCoarseCode%2 >= 1)?1:0
.param xCoarseBit1 = ((xCoarseCode/2)%2 >= 1)?1:0
.param xCoarseBit2 = ((xCoarseCode/4)%2 >= 1)?1:0
.param xFineBit0 = (xFineCode%2 >= 1)?1:0
.param xFineBit1 = ((xFineCode/2)%2 >= 1)?1:0
.param xFineBit2 = ((xFineCode/4)%2 >= 1)?1:0
.param xFineBit3 = ((xFineCode/8)%2 >= 1)?1:0
.param xFineBit4 = ((xFineCode/16)%2 >= 1)?1:0
.param xFineBit5 = ((xFineCode/32)%2 >= 1)?1:0
.param xFineBit6 = ((xFineCode/64)%2 >= 1)?1:0
.param xFineBit7 = ((xFineCode/128)%2 >= 1)?1:0

.param xCoarseBitBuffer0 = (xCoarseCodeBuffer%2 >= 1)?1:0
.param xCoarseBitBuffer1 = ((xCoarseCodeBuffer/2)%2 >= 1)?1:0
.param xCoarseBitBuffer2 = ((xCoarseCodeBuffer/4)%2 >= 1)?1:0
.param xFineBitBuffer0 = (xFineCodeBuffer%2 >= 1)?1:0
.param xFineBitBuffer1 = ((xFineCodeBuffer/2)%2 >= 1)?1:0
.param xFineBitBuffer2 = ((xFineCodeBuffer/4)%2 >= 1)?1:0
.param xFineBitBuffer3 = ((xFineCodeBuffer/8)%2 >= 1)?1:0
.param xFineBitBuffer4 = ((xFineCodeBuffer/16)%2 >= 1)?1:0
.param xFineBitBuffer5 = ((xFineCodeBuffer/32)%2 >= 1)?1:0
.param xFineBitBuffer6 = ((xFineCodeBuffer/64)%2 >= 1)?1:0
.param xFineBitBuffer7 = ((xFineCodeBuffer/128)%2 >= 1)?1:0

*.nodeset v(xBias.xBiasBuffer.bit14) = 'xCoarseBitBuffer0*xvdd'
*.nodeset v(xBias.xBiasBuffer.bit13) = 'xCoarseBitBuffer1*xvdd'
*.nodeset v(xBias.xBiasBuffer.bit12) = 'xCoarseBitBuffer0*xvdd'
*.nodeset v(xBias.xBiasBuffer.xDivFine.Q7) = 'xFineBitBuffer7*xvdd'
*.nodeset v(xBias.xBiasBuffer.xDivFine.Q6) = 'xFineBitBuffer6*xvdd'
*.nodeset v(xBias.xBiasBuffer.xDivFine.Q5) = 'xFineBitBuffer5*xvdd'
*.nodeset v(xBias.xBiasBuffer.xDivFine.Q4) = 'xFineBitBuffer4*xvdd'
*.nodeset v(xBias.xBiasBuffer.xDivFine.Q3) = 'xFineBitBuffer3*xvdd'
*.nodeset v(xBias.xBiasBuffer.xDivFine.Q2) = 'xFineBitBuffer2*xvdd'
*.nodeset v(xBias.xBiasBuffer.xDivFine.Q1) = 'xFineBitBuffer1*xvdd'
*.nodeset v(xBias.xBiasBuffer.xDivFine.Q0) = 'xFineBitBuffer0*xvdd'



.save v(@m.xBias.xBiasMasternCoarse.xBiasMasterBias.xMNBias.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save @m.xBias.xBiasMasternCoarse.xBiasMasterBias.xMNBias.msky130_fd_pr__nfet_01v8_lvt[id]
.save v(@m.xBias.xBiasMasternCoarse.xBiasMasterBias.xMNBiasDio.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save @m.xBias.xBiasMasternCoarse.xBiasMasterBias.xMNBiasDio.msky130_fd_pr__nfet_01v8_lvt[id]
.save v(@m.xBias.xBiasMasternCoarse.xBiasMasterBias.xMNBiasCascDio.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasMasternCoarse.xBiasMasterBias.xMNBiasCasc.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasMasternCoarse.xBiasMasterBias.xMPBias.msky130_fd_pr__pfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasMasternCoarse.xBiasMasterBias.xMPBiasDio.msky130_fd_pr__pfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasMasternCoarse.xBiasMasterBias.xMNMirr1.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save @m.xBias.xBiasMasternCoarse.xBiasMasterBias.xMNMirr1.msky130_fd_pr__nfet_01v8_lvt[id]
.save v(@m.xBias.xBiasMasternCoarse.xBiasMasterBias.xMNMirr2.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save @m.xBias.xBiasMasternCoarse.xBiasMasterBias.xMNMirr2.msky130_fd_pr__nfet_01v8_lvt[id]
.save v(@m.xBias.xBiasMasternCoarse.xBiasMasterBias.xMNMirrCasc1.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasMasternCoarse.xBiasMasterBias.xMNMirrCasc2.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save @m.xBias.xBiasMasternCoarse.xMBDiv.xMNDioCB0.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasMasternCoarse.xMBDiv.xMNDioCB1.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasMasternCoarse.xMBDiv.xMNDioCB2.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasMasternCoarse.xMBDiv.xMNDioCB3.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasMasternCoarse.xMBDiv.xMNDioCB4.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasMasternCoarse.xMBDiv.xMNDioCB5.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasMasternCoarse.xMBDiv.xMNDioCB6.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasMasternCoarse.xMBDiv.xMNDioCB7.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasBranch.xCoarseBuf.xSel.xMmirrB0.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasBranch.xCoarseBuf.xSel.xMmirrB1.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasBranch.xCoarseBuf.xSel.xMmirrhB2.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasBranch.xCoarseBuf.xSel.xMmirrhB3.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasBranch.xCoarseBuf.xSel.xMmirrhB4t07.msky130_fd_pr__nfet_01v8_lvt[id]
.save v(@m.xBias.xBiasBranch.xCoarseBuf.xSel.xMmirrB0.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBranch.xCoarseBuf.xSel.xMmirrB1.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBranch.xCoarseBuf.xSel.xMmirrhB2.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBranch.xCoarseBuf.xSel.xMmirrhB3.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBranch.xCoarseBuf.xSel.xMmirrhB4t07.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save @m.xBias.xBiasBranch.xCoarse2Fine.xMpDioOut.msky130_fd_pr__pfet_01v8_lvt[id]
.save @m.xBias.xBiasBranch.xCoarse2Fine.xMpMirrOut.msky130_fd_pr__pfet_01v8_lvt[id]
.save @m.xBias.xBiasBranch.xCoarse2Fine.xMpDionOut2.msky130_fd_pr__pfet_01v8_lvt[id]
.save @m.xBias.xBiasBranch.xCoarse2Fine.xMpMirrnOut2.msky130_fd_pr__pfet_01v8_lvt[id]
.save v(@m.xBias.xBiasBranch.xCoarse2Fine.xMpDioOut.msky130_fd_pr__pfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBranch.xCoarse2Fine.xMpMirrOut.msky130_fd_pr__pfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBranch.xCoarse2Fine.xMpDionOut2.msky130_fd_pr__pfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBranch.xCoarse2Fine.xMpMirrnOut2.msky130_fd_pr__pfet_01v8_lvt[vdsat])
.save @m.xBias.xBiasBranch.xCoarse2Fine.xMpInDio.msky130_fd_pr__pfet_01v8_lvt[id]
.save @m.xBias.xBiasBranch.xDivfine.xMnterm.msky130_fd_pr__nfet_01v8_lvt[id]

.save @m.xBias.xBiasBranch.xBuffs.xMnDio.msky130_fd_pr__nfet_01v8[id]
.save @m.xBias.xBiasBranch.xBuffs.xMnMirr.msky130_fd_pr__nfet_01v8[id]
.save @m.xBias.xBiasBranch.xBuffs.xMnMirrBuffBias.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasBranch.xBuffs.xMnMirrBuffB0.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasBranch.xBuffs.xMnMirrBuffnB0.msky130_fd_pr__nfet_01v8_lvt[id]
.save v(@m.xBias.xBiasBranch.xBuffs.xMnDio.msky130_fd_pr__nfet_01v8[vdsat])
.save v(@m.xBias.xBiasBranch.xBuffs.xMnMirr.msky130_fd_pr__nfet_01v8[vdsat])
.save v(@m.xBias.xBiasBranch.xBuffs.xMnMirrBuffBias.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBranch.xBuffs.xMnMirrBuffB0.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBranch.xBuffs.xMnMirrBuffnB0.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save @m.xBias.xBiasBranch.xBuffs.xMpDio.msky130_fd_pr__pfet_01v8[id]
.save @m.xBias.xBiasBranch.xBuffs.xMpMirrBuffBias.msky130_fd_pr__pfet_01v8_lvt[id]
.save @m.xBias.xBiasBranch.xBuffs.xMpMirrBuffB0.msky130_fd_pr__pfet_01v8_lvt[id]
.save @m.xBias.xBiasBranch.xBuffs.xMpMirrBuffnB0.msky130_fd_pr__pfet_01v8_lvt[id]
.save v(@m.xBias.xBiasBranch.xBuffs.xMpDio.msky130_fd_pr__pfet_01v8[vdsat])
.save v(@m.xBias.xBiasBranch.xBuffs.xMpMirrBuffBias.msky130_fd_pr__pfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBranch.xBuffs.xMpMirrBuffB0.msky130_fd_pr__pfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBranch.xBuffs.xMpMirrBuffnB0.msky130_fd_pr__pfet_01v8_lvt[vdsat])
.save @m.xBias.xBiasBuffer.xCoarseBuf.xSel.xMmirrB0.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasBuffer.xCoarseBuf.xSel.xMmirrB1.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasBuffer.xCoarseBuf.xSel.xMmirrhB2.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasBuffer.xCoarseBuf.xSel.xMmirrhB3.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasBuffer.xCoarseBuf.xSel.xMmirrhB4t07.msky130_fd_pr__nfet_01v8_lvt[id]
.save v(@m.xBias.xBiasBuffer.xCoarseBuf.xSel.xMmirrB0.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBuffer.xCoarseBuf.xSel.xMmirrB1.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBuffer.xCoarseBuf.xSel.xMmirrhB2.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBuffer.xCoarseBuf.xSel.xMmirrhB3.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBuffer.xCoarseBuf.xSel.xMmirrhB4t07.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save @m.xBias.xBiasBuffer.xCoarse2Fine.xMpDioOut.msky130_fd_pr__pfet_01v8_lvt[id]
.save @m.xBias.xBiasBuffer.xCoarse2Fine.xMpMirrOut.msky130_fd_pr__pfet_01v8_lvt[id]
.save @m.xBias.xBiasBuffer.xCoarse2Fine.xMpDionOut2.msky130_fd_pr__pfet_01v8_lvt[id]
.save @m.xBias.xBiasBuffer.xCoarse2Fine.xMpMirrnOut2.msky130_fd_pr__pfet_01v8_lvt[id]
.save @m.xBias.xBiasBuffer.xCoarse2Fine.xMpDioOut.msky130_fd_pr__pfet_01v8[id]
.save @m.xBias.xBiasBuffer.xCoarse2Fine.xMpMirrOut.msky130_fd_pr__pfet_01v8[id]
.save @m.xBias.xBiasBuffer.xCoarse2Fine.xMpDionOut2.msky130_fd_pr__pfet_01v8[id]
.save @m.xBias.xBiasBuffer.xCoarse2Fine.xMpMirrnOut2.msky130_fd_pr__pfet_01v8[id]
.save v(@m.xBias.xBiasBuffer.xCoarse2Fine.xMpDioOut.msky130_fd_pr__pfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBuffer.xCoarse2Fine.xMpMirrOut.msky130_fd_pr__pfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBuffer.xCoarse2Fine.xMpDionOut2.msky130_fd_pr__pfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBuffer.xCoarse2Fine.xMpMirrnOut2.msky130_fd_pr__pfet_01v8_lvt[vdsat])
.save @m.xBias.xBiasBuffer.xCoarse2Fine.xMpInDio.msky130_fd_pr__pfet_01v8_lvt[id]
.save @m.xBias.xBiasBuffer.xMnDio.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasBuffer.xMnMirr.msky130_fd_pr__nfet_01v8_lvt[id]
.save @m.xBias.xBiasBuffer.xMpDio.msky130_fd_pr__pfet_01v8_lvt[id]
.save v(@m.xBias.xBiasBuffer.xMnDio.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBuffer.xMnMirr.msky130_fd_pr__nfet_01v8_lvt[vdsat])
.save v(@m.xBias.xBiasBuffer.xMpDio.msky130_fd_pr__pfet_01v8_lvt[vdsat])
.save i(vmeas_iout_pmos)
.save i(vmeas_iout_nmos)

.save all

.control
op
write tb_BiasBranchnMasterx1_op_413.raw
shell python /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/cace/scripts/tb_BiasBranchnMasterx1_op.py /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/runs/RUN_2026-05-12_11-42-45/parameters/op_sweep_code/run_0413 tb_BiasBranchnMasterx1_op 413

*shell . /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/cace/scripts/shell_for_venv.sh "/home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/cace/scripts/tb_BiasBranchnMasterx1_op.py" "/home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/runs/RUN_2026-05-12_11-42-45/parameters/op_sweep_code/run_0413" "tb_BiasBranchnMasterx1_op" "413"
.endc


**** end user architecture code
**.ends
.GLOBAL GND!
.end
